US08034812B2
Production of N-(3-{[2-(propionylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-3-(trifluoromethyl)benzamide
Using N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (150 mg, 0.363 mmol), propionic acid (40 μL, 0.544 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (104 mg, 0.544 mmol), 1-hydroxybenzotriazole (73 mg, 0.544 mmol), triethylamine (76 μL, 0.544 mmol) and N,N-dimethylformamide (5 mL) as starting materials and in the same manner as in Example 380, the title compound (116 mg, 68%) was obtained as a white powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.363 mmol, 150 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | propionic acid | 0.544 mmol, 40 μL | C(CC)(=O)O | C3H6O2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.544 mmol, 104 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.544 mmol, 73 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.544 mmol, 76 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(3-{[2-(propionylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-3-(trifluoromethyl)benzamide | 116 mg, 68% | C(CC)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C23H18F3N5O3
